US04889941
(c) 7-[5-(2-Tetrahydropyranyloxy)-2-hydroxypentoxy]flavone
A solid mixture of 7-hydroxyflavone (32.0 g, 0.134 mol), piperidine (0.5 ml), and 2-(4,5-epoxypent-1-oxy)tetrahydropyran (50 g, 0.268 mol) was stirred and heated under nitrogen at 100° C. for 14 hours; it became a stirrable mixture after 6 hours heating at 100° C. The cooled reaction mixture was purified through a pad of silica gel eluting with CH2Cl2 initially and then CH2Cl2 --EtOAc (1:1). The resulting solid was stirred with ether and filtered, giving 43.9 g (77% crude yield) of an off-white solid; pure white crystals, mp 110°-112° C., were obtained from recrystallization from toluene.

reactant | 7-hydroxyflavone | 0.134 mol, 32.0 g | OC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | 2-(4,5-epoxypent-1-oxy)tetrahydropyran | 0.268 mol, 50 g | O1C(CCCOC2OCCCC2)C1 | C10H18O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-[5-(2-Tetrahydropyranyloxy)-2-hydroxypentoxy]flavone | O1C(CCCC1)OCCCC(COC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O)O | C25H28O6
